US04141995
2-Hydroxy-3-methyl-4'-chlorobenzophenone
Chlorobenzene (78.79 g, 71.6 ml; 0.7 mole) and AlCl3 (14 g, 0.105 mole) were mixed, stirred and treated with a solution of 2-hydroxy-3-methylbenzoic acid chloride (12 g, 0.07 mole) in chlorobenzene (20 ml). The mixture was stirred and heated at 100° C. overnight. The cooled mixture was added to conc. HCl (10 ml) and ice, extracted with ether, and ether washed with saturated sodium bicarbonate solution, dried (Na2SO4), filtered and the filtrate distilled, to give (after removal of the ether), a main fraction 2-hydroxy-3-methyl-4'-chlorobenzophenone, b.p. 148°-152° C./0.5 mm (8.18 g), which solidified to yellow microplates, m.p. 55°-58° C.

reactant | AlCl3 | 0.105 mole, 14 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 2-hydroxy-3-methylbenzoic acid chloride | 0.07 mole, 12 g | OC1=C(C(=O)Cl)C=CC=C1C | C8H7ClO2
reactant | HCl | 10 ml | Cl | ClH
solvent | chlorobenzene | 20 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | Chlorobenzene | 0.7 mole, 71.6 ml, 78.79 g | ClC1=CC=CC=C1 | C6H5Cl
product | 2-Hydroxy-3-methyl-4'-chlorobenzophenone | OC1=C(C(=O)C2=CC=C(C=C2)Cl)C=CC=C1C | C14H11ClO2
